US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-chlorophenyl chloroformate were reacted, followed by treatment with N-methyl-piperazine to give trans-Methyl-{4-[5-(4-methyl-piperazin-1-yl)-pentyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester, MS: 436 (MH+, 1Cl).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
product | trans-Methyl-{4-[5-(4-methyl-piperazin-1-yl)-pentyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N([C@@H]1CC[C@H](CC1)CCCCCN1CCN(CC1)C)C)=O | C24H38ClN3O2
